US04789674
Analogously to the procedure described in Example 1(a), from 35.0 g (0.2 mol) of N-(methoxycarbonylmethyl)-β-aminopropionic acid methyl ester, 33 ml (0.24 mol) of triethylamine and 36.2 g (0.24 mol) of malonic acid monomethyl ester chloride in 60 ml of methylene chloride there is obtained N-methoxycarbonylacetyl-N-methoxycarbonylmethyl-β-aminopropionic acid methyl ester in the form of a yellowish oil.

reactant | N-(methoxycarbonylmethyl)-β-aminopropionic acid methyl ester | 0.2 mol, 35.0 g | COC(CCNCC(=O)OC)=O | C7H13NO4
reactant | triethylamine | 0.24 mol, 33 ml | C(C)N(CC)CC | C6H15N
reactant | malonic acid monomethyl ester chloride | 0.24 mol, 36.2 g | [Cl-].COC(CC(=O)O)=O
solvent | methylene chloride | 60 ml | C(Cl)Cl | CH2Cl2
product | N-methoxycarbonylacetyl-N-methoxycarbonylmethyl-β-aminopropionic acid methyl ester | COC(CCN(CC(=O)OC)C(CC(=O)OC)=O)=O | C11H17NO7
